US08008303B2
(R)-2-{6-Chloro-4′-[4-(4-(propane-1-sulfonyl)-piperazin-1-ylmethyl)-phenylcarbamoyl]-biphenyl-3-ylcarbamoyl}-piperidine-1-carboxylic acid tert-butyl ester
A mixture of (R)-2-(4′-Carboxy-6-chloro-biphenyl-3-ylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester (73 mg), 4-(4-(propane-1-sulfonyl)-piperazin-1-ylmethyl)-phenylamine (118 mg) and HBTU (91 mg) in dry DMF (4 ml) containing N-methylmorpholine (52 μl) was stirred at room temp for 18 h.

reactant | (R)-2-(4′-Carboxy-6-chloro-biphenyl-3-ylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester | 73 mg | C(C)(C)(C)OC(=O)N1[C@H](CCCC1)C(NC=1C=C(C(=CC1)Cl)C1=CC=C(C=C1)C(=O)O)=O | C24H27ClN2O5
reactant | 4-(4-(propane-1-sulfonyl)-piperazin-1-ylmethyl)-phenylamine | 118 mg | C(CC)S(=O)(=O)N1CCN(CC1)CC1=CC=C(C=C1)N | C14H23N3O2S
reactant | HBTU | 91 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 52 μl | CN1CCOCC1 | C5H11NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | (R)-2-{6-Chloro-4′-[4-(4-(propane-1-sulfonyl)-piperazin-1-ylmethyl)-phenylcarbamoyl]-biphenyl-3-ylcarbamoyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CCCC1)C(NC=1C=C(C(=CC1)Cl)C1=CC=C(C=C1)C(NC1=CC=C(C=C1)CN1CCN(CC1)S(=O)(=O)CCC)=O)=O | C38H48ClN5O6S
